US03992400
In the manner given in Preparation 1, 2-amino-5-chloro-2',6'-difluorobenzophenone is refluxed with hydrazine hydrate in diethylene glycol to give 2-amino-5-chloro-2',6'-difluorobenzophenone hydrazone.

reactant | 2-amino-5-chloro-2',6'-difluorobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2F)F)C=C(C=C1)Cl | C13H8ClF2NO
reactant | hydrazine hydrate | O.NN
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 2-amino-5-chloro-2',6'-difluorobenzophenone hydrazone | NC1=C(C(C2=C(C=CC=C2F)F)=NN)C=C(C=C1)Cl | C13H10ClF2N3
